US05814653
6-(4-phenylbenzoyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole
Beginning with 10.4 mg (0.046 mMol) 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole and 15 mg (0.051 mMol) 4-phenylbenzoyl chloride, 13.4 mg (71%) of the title compound were recovered as a brown solid.

reactant | 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 0.046 mMol, 10.4 mg | NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C14H19N3
reactant | 4-phenylbenzoyl chloride | 0.051 mMol, 15 mg | C1(=CC=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C13H9ClO
product | 6-(4-phenylbenzoyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 13.4 mg, 71% | C1(=CC=CC=C1)C1=CC=C(C(=O)NC=2C=C3C=4CC(CCC4NC3=CC2)N(C)C)C=C1 | C27H27N3O
